US08044052B2
(3-(5-Bromopyrimidin-2-yloxy)phenyl)methanol
3-Hydroxybenzyl alcohol (1.50 g, 12.1 mmol) and 2-chloro-5-bromopyrimidine (2.57 g, 13.3 mmol) were suspended in DMSO (20 mL), treated with cesium carbonate (4.35 g, 13.4 mmol) and heated to 110° C. After 16 h, the reaction mixture was cooled and partitioned between water (200 mL) and heptane:ethyl acetate (1:1, 200 mL). The organic layer was separated and the aqueous was extracted again with heptane:ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and concentrated. The residue was purified by flash chromatography on silica (20-70% EtOAc:heptane) to afford the title compound (0.790 g, 23% yield) as a light yellow oil. MS (APCI) M+1=281.0; 1H NMR (400 MHz, CDCl3) δ ppm 4.74 (s, 2H) 7.08-7.14 (m, 1H) 7.20-7.23 (m, 1H) 7.25-7.30 (m, 1H) 7.43 (t, J=7.80 Hz, 1H) 8.57 (s, 2H).

reactant | 3-Hydroxybenzyl alcohol | 12.1 mmol, 1.50 g | OC=1C=C(CO)C=CC1 | C7H8O2
reactant | 2-chloro-5-bromopyrimidine | 13.3 mmol, 2.57 g | ClC1=NC=C(C=N1)Br | C4H2BrClN2
reactant | cesium carbonate | 13.4 mmol, 4.35 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | (3-(5-Bromopyrimidin-2-yloxy)phenyl)methanol | 0.790 g, 23% yield | BrC=1C=NC(=NC1)OC=1C=C(C=CC1)CO | C11H9BrN2O2
